US07705028B2
5c) 3-(2,6-dichlorophenyl)-N-hydroxypropanimidoyl chloride
A solution of 3-(2,6-dichlorophenyl)propanal oxime (1.05 g, 4.82 mmol) in dimethylformamide (3.8 mL) was stirred as N-chlorosuccinimide (0.64 g, 4.82 mmol) was added. The resulting solution was allowed to stir for one hour. The solution was poured into water and extracted with ether. The organic layer was washed with brine, dried with magnesium sulfate, filtered and concentrated to yield the title compound (1.05 g, 86%). 1H NMR (DMSO-d6): δ 11.67 (s, 1H), 7.45 (d, J=8 Hz, 2H), 7.28 (t, J=8 Hz, 1H), 3.17-3.13 (m, 2H), 2.68-2.64 (m, 2H).

reactant | 3-(2,6-dichlorophenyl)propanal oxime | 4.82 mmol, 1.05 g | ClC1=C(C(=CC=C1)Cl)CCC=NO | C9H9Cl2NO
reactant | N-chlorosuccinimide | 4.82 mmol, 0.64 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | dimethylformamide | 3.8 mL | CN(C=O)C | C3H7NO
product | 3-(2,6-dichlorophenyl)-N-hydroxypropanimidoyl chloride | 1.05 g, 86% | ClC1=C(C(=CC=C1)Cl)CCC(=NO)Cl | C9H8Cl3NO
